US06509361B1
Step 2: Preparation of 2-Chloro-4-acetylpyridine
To methylmagnesium bromide (30 mL of 3.0 M in THF) was added a solution of 2-chloro-4-(N-methyl-N-methoxycarbamoyl)pyridine (6.0 g, 0.03 mol) in 20 mL of THF at 0 C. The reaction mixture was stirred overnight while allowing to warm up to room temperature. A solution of potassium hydrogensulfate (12 g) in 300 mL of water was added and the aqueous phase was extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and filtered. The filtrate was concentrated 4.0 g (86%) of product as a yellow oil. This was used in next step without purification.

reactant | methylmagnesium bromide | 3.0 M, 30 mL | C[Mg]Br
reactant | 2-chloro-4-(N-methyl-N-methoxycarbamoyl)pyridine | 0.03 mol, 6.0 g | ClC1=NC=CC(=C1)C(N(OC)C)=O | C8H9ClN2O2
reactant | potassium hydrogensulfate | 12 g | S(=O)(=O)(O)[O-].[K+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 300 mL | O | H2O
product | 2-Chloro-4-acetylpyridine | ClC1=NC=CC(=C1)C(C)=O | C7H6ClNO
